US06103708
[2-(4-Bromo-benzyl)-4,5-dimethyl-furan-3-yl]-(3,5-diisopropyl-4-methoxy-phenyl)-methanone
The title compound was prepared according to the procedure in Example 5, step 2 using 3,5-diisopropyl-p-anisic acid (1.03 g, 4.35 mmol, RN-117439-59-5), oxalyl chloride (0.417 mL, 4.79 mmol), N,N-dimethylformaride (2 drops), tin (IV) chloride (0.560 mL, 4.79 mmol) and 2-(4-bromo-benzyl)-4,5-dimethyl-furan (1.15 g, 4.35 mmol) in CH2Cl2. Purification on Biotage KP-Sil eluting with 3% EtOAc/pet. ether gave 1.63 g (77%) of the title compound as a yellow clear oil. 1H NMR (DMSO-d6) δ 1.16 (d, 12 H), 1.80 (s, 3 H), 2.19 (s, 3 H), 3.28 (septet, 2 H), 3.74 (s, 3 H), 3.83 (s, 2 H), 6.98 (d, 2 H), 7.41 (dd, 2 H), 7.44 (s, 2 H).

reactant | 3,5-diisopropyl-p-anisic acid | 4.35 mmol, 1.03 g | C(C)(C)C=1C=C(C(=O)O)C=C(C1OC)C(C)C | C14H20O3
reactant | oxalyl chloride | 4.79 mmol, 0.417 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | tin (IV) chloride | 4.79 mmol, 0.560 mL | [Sn](Cl)(Cl)(Cl)Cl
reactant | 2-(4-bromo-benzyl)-4,5-dimethyl-furan | 4.35 mmol, 1.15 g | BrC1=CC=C(CC=2OC(=C(C2)C)C)C=C1 | C13H13BrO
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | [2-(4-Bromo-benzyl)-4,5-dimethyl-furan-3-yl]-(3,5-diisopropyl-4-methoxy-phenyl)-methanone | 1.63 g, 77% | BrC1=CC=C(CC=2OC(=C(C2C(=O)C2=CC(=C(C(=C2)C(C)C)OC)C(C)C)C)C)C=C1 | C27H31BrO3
